US07435837B2
Treatment of (±)-(7-bromo-2,3-dihydro-1-benzofuran-2-yl)methyl 4-methylbenzenesulfonate (1.00 g, 2.61 mmol) with 2,6-dimethylphenylboronic acid (0.783 g, 5.22 mmol), dichlorobis(tri-o-tolylphosphine)-palladium(II) (0.103 g, 0.135 mmol), and potassium carbonate (0.90 g, 6.52 mmol) generally according to the procedure described for Intermediate 37 provided 0.192 g (18%) of (±)-[7-(2,6-dimethylphenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl 4-methylbenzenesulfonate as a yellow oil. Anal. calcd. for C24H24O4S: C, 70.56; H, 5.92. Found: C, 68.01; H, 5.6.

reactant | (±)-(7-bromo-2,3-dihydro-1-benzofuran-2-yl)methyl 4-methylbenzenesulfonate | 2.61 mmol, 1.00 g | CC1=CC=C(C=C1)S(=O)(=O)OCC1OC2=C(C1)C=CC=C2Br | C16H15BrO4S
reactant | 2,6-dimethylphenylboronic acid | 5.22 mmol, 0.783 g | CC1=C(C(=CC=C1)C)B(O)O | C8H11BO2
reactant | potassium carbonate | 6.52 mmol, 0.90 g | C([O-])([O-])=O.[K+].[K+]
catalyst | dichlorobis(tri-o-tolylphosphine)-palladium(II) | 0.135 mmol, 0.103 g | CC1=C([P](C2=C(C)C=CC=C2)([Pd]([P](C3=C(C)C=CC=C3)(C4=C(C)C=CC=C4)C(C=CC=C5)=C5C)(Cl)Cl)C6=C(C)C=CC=C6)C=CC=C1
product | (±)-[7-(2,6-dimethylphenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl 4-methylbenzenesulfonate | 0.192 g, 18% | CC1=CC=C(C=C1)S(=O)(=O)OCC1OC2=C(C1)C=CC=C2C2=C(C=CC=C2C)C | C24H24O4S
